US06706703B2
4-Acetyl-3,5-dimethoxyphenyl Trifluoromethanesulfonate
To a solution of 4-t-butyldiphenylsiloxy-2,6-dimethoxyacetophenone (2.07 g, 4.76 mmol) in tetrahydrofuran (42 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (5.2 mL, 5.2 mmol). The reaction mixture was stirred at room temperature for 5 minutes and concentrated under reduced pressure. A solution of the residue in methylene chloride (63 mL) was stirred in a dry ice-methanol bath. After the addition of N,N-diisopropylethylamine (2.1 mL, 12 mmol), trifluoromethanesulfonic anhydride (1.2 mL, 7.1 mmol) was added dropwise. The reaction mixture was stirred for 30 minutes in the dry ice-methanol bath, washed with 1.0 M hydrochloric acid and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield the title compound as a colorless oil (11.21 g, yield: 78%).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N,N-diisopropylethylamine | 12 mmol, 2.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 7.1 mmol, 1.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | dry ice methanol | C(=O)=O.CO
reactant | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5.2 mmol, 5.2 mL | O1CCCC1 | C4H8O
product | 4-Acetyl-3,5-dimethoxyphenyl Trifluoromethanesulfonate | 11.21 g, yield: 78% | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC)C(C)=O)OC)(F)F | C11H11F3O6S
